US09334260B2
3-(6-Bromodibenzothiophen-3-yl)-9-phenyl-9H-carbazole (E1)
2.47 g (8.1 mmol) of tetrakistriphenylphosphinopalladium(0) are added to a vigorously stirred suspension of 6.8 g (20 mmol) of 3,6-dibromodibenzothiophene, 15 g (40 mmol) of 9-phenyl-9H-carbazole-3-boronic acid and 63.9 g (127 mmol) of Na2CO3 in 500 ml of DMF, and the mixture is subsequently heated under reflux for 16 h. After cooling, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol and recrystallised three times from DMF (about 15 ml/g). Yield 17.4 g (33 mmol), 86.0%, purity 99.9% (HPLC).

reactant | 3,6-dibromodibenzothiophene | 20 mmol, 6.8 g | BrC=1C=CC2=C(SC3=C2C=CC=C3Br)C1 | C12H6Br2S
reactant | 9-phenyl-9H-carbazole-3-boronic acid | 40 mmol, 15 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | Na2CO3 | 127 mmol, 63.9 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | tetrakistriphenylphosphinopalladium(0) | 8.1 mmol, 2.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(6-Bromodibenzothiophen-3-yl)-9-phenyl-9H-carbazole | BrC1=CC=CC=2C3=C(SC21)C=C(C=C3)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC=CC=C3 | C30H18BrNS
